US07067658B2
[4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine (35 mg, 0.09 mmol) and SnCl2 (51 mg, 0.27 mmol) were treated substantially as described in Part D of Example 74a to yield 30 mg (94%) of 4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine: MS (EI) m/z 354.22 [(M+H)+, 100].

reactant | [4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 0.09 mmol, 35 mg | ClC1=C(C=C(C(=C1)OC)F)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-] | C17H19ClFN3O4
reactant | SnCl2 | 0.27 mmol, 51 mg | Cl[Sn]Cl
product | 4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine | 30 mg, 94% | ClC1=C(C=C(C(=C1)OC)F)C1=C(C(=NC=C1)NC(CC)COC)N | C17H21ClFN3O2
